US05739129
2-(4-Fluoro-2-nitro-phenylamino)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide
A mixture of 9.06 g of 2,5-difluoro-nitrobenzene (60 mmol) and 12.64 g of 2-amino-N-isopropyl-N-(4-methoxy-phenyl)-acetamide (60 mmol, 1.0 equiv) were combined in 225 mL of 2:1 ethanol/water and heated to reflux under nitrogen and stirred vigorously overnight (approx. 16 hrs.). The resulting slurry was cooled to ambient temperature, filtered and washed with 2:1 water/ethanol. The wet solid was dissolved in methylene chloride, dried over anhydrous sodium sulfate, and evaporated in vacuo. The residue was triturated with hexane, filtered and washed with hexane. The product was dried under high vacuum to provide 9.32 g of the title compound as an orange solid. 1H NMR (300 MHz, CDCl3) d 7.89 (dd, 1H, J=3.1, 9.3), 7.12 (m, 3H), 6.99 (m, 2H), 6.35 (dd, 1H, J=4.8, 9.2), 5.03 (m, 1H), 3.89 (s, 3H), 3.57 (s, 2H), 1.09 (d, 6H, J=6.8); low resolution MS (ESI)m/e 362 (MH+).

reactant | 2,5-difluoro-nitrobenzene | 60 mmol, 9.06 g | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | 2-amino-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 60 mmol, 12.64 g, 1.0 equiv | NCC(=O)N(C1=CC=C(C=C1)OC)C(C)C | C12H18N2O2
solvent | ethanol water | 225 mL | C(C)O.O
product | 2-(4-Fluoro-2-nitro-phenylamino)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 9.32 g | FC1=CC(=C(C=C1)NCC(=O)N(C1=CC=C(C=C1)OC)C(C)C)[N+](=O)[O-] | C18H20FN3O4
